US07595325B2
40D. (5-Bromo-pyridin-3-yl)-(4-chloro-7-methyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-methanone
Cs2CO3 (2.32 g, 7.11 mmol) was added to a suspension of (5-Bromo-pyridin-3-yl)-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-methanone (1.0 g, 5.93 mmol) in DMF (60 mL) at room temperature. The resulting mixture was stirred for 30 min. Mel (1.01 g, 7.11 mmol) was added and the reaction and stirred for 2 h at room temperature. The reaction mixture was quenched with water (30 mL) and extracted with hot EtOAc (3×50 mL). The combined extracts were washed with brine (100 mL), dried (Na2SO4), filtered, and concentrated in vacuo. Purification by flash column chromatography (ethyl acetate/hexanes 2:8-7:3) provided a solid. The solid was triturated with EtOAc to provide the title compound as an off white solid (1.52 g, 73%). MS: 351.9/353.9 (MH+); HPLC Rf: 4.45 min. (HPLC method 4).

reactant | Cs2CO3 | 7.11 mmol, 2.32 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | (5-Bromo-pyridin-3-yl)-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-methanone | 5.93 mmol, 1.0 g | BrC=1C=C(C=NC1)C(=O)C1=CNC=2N=CN=C(C21)Cl | C12H6BrClN4O
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | (5-Bromo-pyridin-3-yl)-(4-chloro-7-methyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-methanone | BrC=1C=C(C=NC1)C(=O)C1=CN(C=2N=CN=C(C21)Cl)C | C13H8BrClN4O
